***************************************************************
*	Infineon	Technologies	AG
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX
*	VALID	UP	TO	6	GHZ
*	>>>	BFR182	<<<
*	(C)	2014	Infineon	Technologies	AG
*	Version	2.1	April	2014
***************************************************************
*.OPTION TNOM=25, GMIN= 1.00e-12
*BFR182 1 2 3
.SUBCKT BFR182 11 22 33
*
CBEPAR 2 3 2.851E-013
CBCPAR 2 1 3.214E-014
CCEPAR 1 3 1.816E-013
LE    33 30 6.492E-010
LB    22 20 7.342E-010
LC    11 1  6.908E-010
CBEPCK 20 30  1.567E-014
CBCPCK 20 1  1.975E-013
CCEPCK 1 30  1.497E-013
LBI   20 2 6.736E-010
LEI   30 3 6.937E-010
*
Q1 1 2 3 M_BFR182
*
.MODEL 	M_BFR182	NPN(
+	TNOM = 25
+	IS	=	2.252E-016
+	BF	=	105.3
+	NF	=	1.013
+	VAF	=	107.9
+	IKF	=	0.1003
+	ISE	=	9.034E-016
+	NE	=	1.719
+	BR	=	9
+	NR	=	1
+	VAR	=	16.96
+	IKR	=	0.075
+	ISC	=	8E-015
+	NC	=	2
+	RB	=	3.961
+	IRB	=	0
+	RBM	=	1.291
+	RE	=	0.1034
+	RC	=	0.4892
+	XTB	=	1.303
+	EG	=	1.11
+	XTI	=	6.548
+	CJE	=	6.989E-013
+	VJE	=	1.295
+	MJE	=	0.6102
+	TF	=	1.614E-011
+	XTF	=	0.2049
+	VTF	=	4.868
+	ITF	=	0.4362
+	PTF	=	0.1029
+	CJC	=	2.364E-013
+	VJC	=	1.101
+	MJC	=	0.4605
+	XCJC	=	0.4261
+	TR	=	1.896E-008
+	CJS	=	0
+	MJS	=	1
+         VJS       =         1
+	FC	=	0.2197
+	KF	=	8.931E-017
+	AF	=	1.512)
***************************************************************
*
*
.ENDS BFR182
